* 输出反相器
.subckt load_inv in out vdd gnd size='LOAD_SIZE'
Xpfet out in vdd vdd pfet l=lg nfin=size
Xnfet out in gnd gnd nfet l=lg nfin=size
.ends load_inv

* 1级负载
Xload_inv_out load_in out VDD_LOAD VSS load_inv size='LOAD_SIZE'
* 2级负载
Xload_inv_fanout_1 out out2 VDD_LOAD VSS load_inv size='LOAD_SIZE'
Xload_inv_fanout_2 out out2 VDD_LOAD VSS load_inv size='LOAD_SIZE'
Xload_inv_fanout_3 out out2 VDD_LOAD VSS load_inv size='LOAD_SIZE'
Xload_inv_fanout_4 out out2 VDD_LOAD VSS load_inv size='LOAD_SIZE'
